### PR TITLE
[Merged by Bors] - feat(GroupTheory/Complement): the equivalence and some corresponding lemmas

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Complement.lean [hunk 1]
```diff
@@ -333,6 +333,140 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
 
+namespace IsComplement
+
+/-- The equivalence `G ≃ S × T`, such that the inverse is  `(*) : S × T → G` -/
+noncomputable def equiv {S T : Set G} (hST : IsComplement S T) : G ≃ S × T :=
+  (Equiv.ofBijective (fun x : S × T => x.1.1 * x.2.1) hST).symm
+
+variable (hST : IsComplement S T) (hHT : IsComplement H T) (hSK : IsComplement S K)
+
+theorem equiv_symm_apply (x : S × T) : (hST.equiv.symm x : G) = x.1.1 * x.2.1 := rfl
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:344]: Sounds reasonable as a simp lemma.
```suggestion
@[simp] theorem equiv_symm_apply (x : S × T) : (hST.equiv.symm x : G) = x.1.1 * x.2.1 := rfl
```

File: Mathlib/GroupTheory/Complement.lean [hunk 2]
```diff
@@ -333,6 +333,140 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+  dsimp at hx
+  rw [hx.2 (hSK.equiv g₁).fst (hSK.equiv_snd_eq_inv_mul g₁ ▸ (hSK.equiv g₁).snd.prop),
+    hx.2 (hSK.equiv g₂).fst]
+  simp only [LeftCosetEquivalence, leftCoset, Set.image_mul_left, Set.ext_iff,
+    Set.mem_preimage, SetLike.mem_coe] at h
+  rw [SetLike.mem_coe, ← Subgroup.inv_mem_iff, mul_inv_rev, inv_inv, h,
+    ← Subgroup.inv_mem_iff, mul_inv_rev, inv_inv, ← hSK.equiv_snd_eq_inv_mul g₂]
+  exact Subtype.property _
+
+theorem equiv_snd_eq_of_rightCosetEquivalence {g₁ g₂ : G}
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:369]:
```suggestion
theorem RightCosetEquivalence.equiv_snd {g₁ g₂ : G}
```
or something like that?

File: Mathlib/GroupTheory/Complement.lean [hunk 3]
```diff
@@ -333,6 +333,140 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+  rw [equiv_snd_eq_inv_mul, equiv_fst_eq_self_of_mem_of_one_mem _ h1 hg, inv_mul_self]
+
+theorem equiv_fst_eq_one_of_mem_of_one_mem {g : G} (h1 : 1 ∈ S) (hg : g ∈ T) :
+    (hST.equiv g).fst = ⟨1, h1⟩ := by
+  ext
+  rw [equiv_fst_eq_mul_inv, equiv_snd_eq_self_of_mem_of_one_mem _ h1 hg, mul_inv_self]
+
+@[simp]
+theorem equiv_mul_right (g : G) (k : K) :
+    (hSK.equiv (g * k)) = ((hSK.equiv g).fst, (hSK.equiv g).snd * k) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:414]:
```suggestion
    hSK.equiv (g * k) = ((hSK.equiv g).fst, (hSK.equiv g).snd * k) := by
```

File: Mathlib/GroupTheory/Complement.lean (hunk 2 above)
Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:364]: It's already in the `IsComplement` namespace which is sensible, otherwise `equiv` could be anything.

Comment (YaelDillies) [reply Mathlib/GroupTheory/Complement.lean:364]: Ah I see. What about `RightCosetEquivalent.isComplementEquiv_snd`? Hmm... that's not much shorter.

Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:364]: It's also nice because I can use the dot with my `IsComplement` hypothesis.

File: Mathlib/GroupTheory/Complement.lean [hunk 4]
```diff
@@ -333,6 +333,130 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+theorem equiv_snd_eq_self_iff_mem {g : G} (h1 : 1 ∈ S) :
+    ((hST.equiv g).snd : G) = g ↔ g ∈ T := by
+  constructor
+  · intro h
+    rw [← h]
+    exact Subtype.prop _
+  · exact hST.equiv_snd_eq_self_of_mem_of_one_mem h1
+
+theorem equiv_fst_eq_one_iff_mem {g : G} (h1 : 1 ∈ S) :
+    ((hST.equiv g).fst : G) = 1 ↔ g ∈ T := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:451]: Could you have `coe` in the name somewhere to distinguish from the similar lemma that would talk about equality in the subtype?

File: Mathlib/GroupTheory/Complement.lean [hunk 5]
```diff
@@ -333,6 +333,130 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+    hHT.equiv (h * g) = (h * (hHT.equiv g).fst, (hHT.equiv g).snd) := by
+  have : (hHT.equiv (h * g)).snd = (hHT.equiv g).snd :=
+    hHT.equiv_snd_eq_of_rightCosetEquivalence
+      (by simp [RightCosetEquivalence, rightCoset_eq_iff])
+  ext
+  · rw [coe_mul, equiv_fst_eq_mul_inv, this, equiv_fst_eq_mul_inv, mul_assoc]
+  · rw [this]
+
+theorem equiv_mul_left_of_mem {h g : G} (hh : h ∈ H) :
+    hHT.equiv (h * g) = (⟨h, hh⟩ * (hHT.equiv g).fst, (hHT.equiv g).snd) :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:427]: Is there a case for having a version of this lemma with the sides turned around and `h : H`? In Lean 3, I would say yes because of the lack of eta for structures. In Lean 4, I still think it's nice for the sake of clarity.

**Review by YaelDillies — APPROVED** [review]
This is fine by me. Would anyone else like to review? @kbuzzard, you seem to know the maths?

File: Mathlib/GroupTheory/Complement.lean (hunk 5 above)
Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:427]: Isn't the lemma you described `equiv_mul_left`, which is the lemma just above this one. It doesn't have the sides flipped around, but I don't think we need both directions of an equality.

File: Mathlib/GroupTheory/Complement.lean (hunk 4 above)
Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:451]: I prefer to leave it, because the `coe` in the name feels like noise to me, but I'll change it anyway.

**Comment by ChrisHughes24** [comment]
> This is fine by me. Would anyone else like to review? @kbuzzard, you seem to know the maths?

I don't think there's a huge amount of maths to need to know here. For context, the motivation is that when defining normal forms for words in the amalgamated product or HNN extension, I need to choose a canonical element of each coset of a subgroup that's involved in some quotient I'm doing. And the canconical element of the subgroup itself has to be one.

File: Mathlib/GroupTheory/Complement.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/Complement.lean:427]: You're right. I completely missed this.

File: Mathlib/GroupTheory/Complement.lean [hunk 6]
```diff
@@ -333,6 +333,130 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+
+theorem equiv_fst_eq_self_iff_mem {g : G} (h1 : 1 ∈ T) :
+    ((hST.equiv g).fst : G) = g ↔ g ∈ S := by
+  constructor
+  · intro h
+    rw [← h]
+    exact Subtype.prop _
+  · exact hST.equiv_fst_eq_self_of_mem_of_one_mem h1
+
+theorem equiv_snd_eq_self_iff_mem {g : G} (h1 : 1 ∈ S) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:442]:
```suggestion
theorem coe_equiv_snd_eq_self_iff_mem {g : G} (h1 : 1 ∈ S) :
```

File: Mathlib/GroupTheory/Complement.lean [hunk 7]
```diff
@@ -333,6 +333,130 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+
+theorem equiv_mul_left_of_mem {h g : G} (hh : h ∈ H) :
+    hHT.equiv (h * g) = (⟨h, hh⟩ * (hHT.equiv g).fst, (hHT.equiv g).snd) :=
+  equiv_mul_left _ ⟨h, hh⟩ g
+
+theorem equiv_one (hs1 : 1 ∈ S) (ht1 : 1 ∈ T) :
+    hST.equiv 1 = (⟨1, hs1⟩, ⟨1, ht1⟩) := by
+  rw [Equiv.apply_eq_iff_eq_symm_apply]; simp [equiv]
+
+theorem equiv_fst_eq_self_iff_mem {g : G} (h1 : 1 ∈ T) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:434]:
```suggestion
theorem coe_equiv_fst_eq_self_iff_mem {g : G} (h1 : 1 ∈ T) :
```

**Review by YaelDillies — COMMENTED** [review]
I'm happy with what I'm seeing. And if you tell me there's not much to understand, I'm happy.

File: Mathlib/GroupTheory/Complement.lean [hunk 8]
```diff
@@ -333,6 +333,144 @@ theorem exists_right_transversal (g : G) : ∃ S ∈ rightTransversals (H : Set
...
+  (Equiv.ofBijective (fun x : S × T => x.1.1 * x.2.1) hST).right_inv g
+
+theorem equiv_fst_eq_mul_inv (g : G) : ↑(hST.equiv g).fst = g * ((hST.equiv g).snd : G)⁻¹ :=
+  eq_mul_inv_of_mul_eq (hST.equiv_fst_mul_equiv_snd g)
+
+theorem equiv_snd_eq_inv_mul (g : G) : ↑(hST.equiv g).snd = ((hST.equiv g).fst : G)⁻¹ * g :=
+  eq_inv_mul_of_mul_eq (hST.equiv_fst_mul_equiv_snd g)
+
+theorem leftCosetEquivalence_iff_equiv_fst_eq {g₁ g₂ : G} :
+    LeftCosetEquivalence K g₁ g₂ ↔ (hSK.equiv g₁).fst = (hSK.equiv g₂).fst := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Complement.lean:357]: I think the LHS is currently simpler than the RHS? What about turning it around and making it a simp lemma?

File: Mathlib/GroupTheory/Complement.lean (hunk 7 above)
Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:446]: There's no corresponding lemma without a `coe` here.

File: Mathlib/GroupTheory/Complement.lean (hunk 8 above)
Comment (ChrisHughes24) [reply Mathlib/GroupTheory/Complement.lean:357]: I swapped it, but I'm slightly nervous about simplifying away equalities which can be used for simplification elsewhere.

**Review by YaelDillies — COMMENTED** [review]
maintainer merge

**Comment by kmill** [comment]
Thanks!

bors r+
